US07893056B2
A solution of [(2R)-3-(2-{2-chloro-6-[4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (0.0681 g, 0.117 mmol) in 4:1 HOAc-water (5 mL) was stirred for 56 h and then concentrated in vacuo. A solution of the residue in DCM (100 mL) was washed with sat. aq. NaHCO3 (30 mL), and the organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by Gilson RPLC and crystallized from EtOAc-hexanes to provide [(2R)-3-(2-{2-chloro-6-[4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (0.0300 g, 51% yield, mixture of diastereomers) as a white solid. LCMS: (M+H)+: 500.3.

reactant | [(2R)-3-(2-{2-chloro-6-[4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.117 mmol, 0.0681 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N1CC(C(C1)N(C)C)(C)C | C27H43ClFN7O4
solvent | HOAc water | 5 mL | CC(=O)O.O
product | [(2R)-3-(2-{2-chloro-6-[4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 0.0300 g, 51% yield | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)N1CC(C(C1)N(C)C)(C)C | C22H35ClFN7O3
